US06194435B1
Preparation of H-Arg(Tos)-Thiazole
To a solution of Boc-Arg(Tos)-Thiazole (300 mg, 0.6 mmol) in CH2Cl2 (10 mL) at 0° C. is added TFA (10 mL). The solution is stirred at 0° C. for 2 h. The solvent and excess TFA are evaporated to an oily residue which is used directly without further purification.

reactant | Boc-Arg(Tos) Thiazole | 0.6 mmol, 300 mg | N([C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O)C(=O)OC(C)(C)C.S1C=NC=C1
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | H-Arg(Tos) Thiazole | N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)O.S1C=NC=C1 | InChI=1S/C13H20N4O4S.C3H3NS/c1-9-4-6-10(7-5-9)22(20,21)17-13(15)16-8-2-3-11(14)12(18)19;1-2-5-3-4-1/h4-7,11H,2-3,8,14H2,1H3,(H,18,19)(H3,15,16,17);1-3H/t11-;/m0./s1
